US07910592B2
To a stirred solution of isoindoline (2 g, 16.8 mmol) at 0° C., was added slowly concentrated H2SO4 (10 mL). Then a mixture of 70% HNO3 (2.1 mL, 33.6 mmol) and concentrated H2SO4 (2 mL) was added. After addition the mixture was stirred at 0° C. for 30 min. The reaction mixture was poured into ice water. The mixture was carefully neutralized with 50% aq. NaOH to pH 10 and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford 5-nitroisoindoline as a brown solid. LCMS calc.=165.1; found=164.9 (M+H)+. 1H NMR (500 MHz, CDCl3): δ 8.11 (d, J=8.0 Hz, 2H); 7.39 (d, J=7.8 Hz, 1H); 4.33 (s, 4H); 2.31 (br s, 1H).

reactant | isoindoline | 16.8 mmol, 2 g | C1NCC2=CC=CC=C12 | C8H9N
reactant | HNO3 | 33.6 mmol, 2.1 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
product | 5-nitroisoindoline | [N+](=O)([O-])C=1C=C2CNCC2=CC1 | C8H8N2O2
